### PR TITLE
Some improvements to ZCohomology

### PR DESCRIPTION
**Pull request by aljungstrom**
This PR contains quite a lot of stuff, but I think all changes in `Homotopy` and `ZCohomology` can be ignored. The same goes for `FromNegOne`.

All changes are made in order to get the cohomology groups to compute better. The main changes are:

- Redefining n-spheres as suspensions of S1. This removes a lot of annoying translations between the two definitions.
- Using the `FromNegOne` truncation in the definitions of connectedness and cohomology in order to avoid the additional constructors in the usual definition of truncations.
- Avoiding, to an extent as great as possible, transports into univalence in `HLevels`.
- Removing eta from `Iso`

These changes also let me remove most of the abstract in the concerned modules.

After these changes, both the 0th and the 1st cohomology groups compute decently. This confirms my suspicion that Freudenthal is the main culprit (only used for n>1) here. If anyone has a more direct proof of the fact that 
Ω ∥ Sⁿ⁺¹ ∥ₙ₊₁ ≃ ∥ Sⁿ ∥ₙ (especially for n = 2), please tell me:-)

### CODE REVIEW

File: Cubical/Algebra/Group/Algebra.agda [hunk 1]
```diff
@@ -202,23 +211,52 @@ vSES→GroupEquiv : {A : Group {ℓ}} {B : Group {ℓ₁}} (leftGr : Group {ℓ
...
-GroupEquiv.isHom (contrGroup≅trivialGroup contr) _ _ = refl
+contrGroup≅trivialGroup contr = GrIsoToGrEquiv (IsoContrGroupTrivialGroup contr)
+
+GroupIso→Iso : {A : Group {ℓ}} {B : Group {ℓ₁}} → GroupIso A B → Iso ⟨ A ⟩ ⟨ B ⟩
+fun (GroupIso→Iso i) = fun (map i)
+inv (GroupIso→Iso i) = inv i
+rightInv (GroupIso→Iso i) = rightInv i
+leftInv (GroupIso→Iso i) = leftInv i
+
+congLemma : ∀ {ℓ} {A : Type ℓ} (_+A_ : A → A → A) (-A_ : A → A)
```
Comment (mortberg) [inline Cubical/Algebra/Group/Algebra.agda:250]: This name is really bad. Please rename or make private where it's used

File: Cubical/Data/Sigma/Properties.agda [hunk 2]
```diff
@@ -78,6 +78,9 @@ module _ {A : I → Type ℓ} {B : (i : I) → A i → Type ℓ'}
               ≡ (PathP (λ i → Σ (A i) (B i)) x y)
   ΣPath≡PathΣ = ua ΣPath≃PathΣ
 
+×≡Prop : isProp A' → {u v : A × A'} → (u .fst ≡ v .fst) → u ≡ v
```
Comment (mortberg) [inline Cubical/Data/Sigma/Properties.agda:81]: No parentheses needed around first equality argument

File: Cubical/Data/Sigma/Properties.agda [hunk 3]
```diff
@@ -203,17 +206,25 @@ leftInv (Σ-cong-iso-snd isom) (x , y') = ΣPathP (refl , leftInv (isom x) y')
 ΣPathTransport : (a b : Σ A B) → Type _
 ΣPathTransport {B = B} a b = Σ[ p ∈ (fst a ≡ fst b) ] transport (λ i → B (p i)) (snd a) ≡ snd b
 
+IsoΣPathTransportPathΣ : (a b : Σ A B) → Iso (ΣPathTransport a b) (a ≡ b)
+IsoΣPathTransportPathΣ {B = B} a b = compIso (Σ-cong-iso-snd (λ p → invIso (equivToIso (PathP≃Path (λ i → B (p i)) _ _))))
+         ΣPathIsoPathΣ
+
+-- fun (IsoΣPathTransportPathΣ {B = B} a b) (p , q) i = (p i) , (toPathP {A = λ i → B (p i)} q i)
```
Comment (mortberg) [inline Cubical/Data/Sigma/Properties.agda:213]: Commented code, please delete

File: Cubical/Data/Unit/Base.agda [hunk 4]
```diff
@@ -1,6 +1,11 @@
 {-# OPTIONS --cubical --no-import-sorts --safe #-}
 module Cubical.Data.Unit.Base where
+open import Cubical.Foundations.Prelude
```
Comment (mortberg) [inline Cubical/Data/Unit/Base.agda:3]: Do you need the whole Prelude or just Core?

File: Cubical/Data/Unit/Base.agda [hunk 5]
```diff
@@ -1,6 +1,11 @@
...
 
 -- Obtain Unit
 open import Agda.Builtin.Unit public
   renaming ( ⊤ to Unit )
+
+-- Lifted version
+data Unit* {ℓ : Level} : Type ℓ where
```
Comment (mortberg) [inline Cubical/Data/Unit/Base.agda:10]: Maybe it would be better if this would be the default Unit? Also the commented is strange, why not "universe polymorphic version"?

File: Cubical/Data/Unit/Properties.agda [hunk 6]
```diff
@@ -53,3 +53,16 @@ isContr→≃Unit contr = isoToEquiv (iso (λ _ → tt) (λ _ → fst contr) (λ
 
 isContr→≡Unit : {A : Type₀} → isContr A → A ≡ Unit
 isContr→≡Unit contr = ua (isContr→≃Unit contr)
+
+
+---
```
Comment (mortberg) [inline Cubical/Data/Unit/Properties.agda:58]: ---?

File: Cubical/Data/Unit/Properties.agda [hunk 7]
```diff
@@ -53,3 +53,16 @@ isContr→≃Unit contr = isoToEquiv (iso (λ _ → tt) (λ _ → fst contr) (λ
...
+isContrUnit* : ∀ {ℓ} → isContr (Unit* {ℓ})
```
Comment (mortberg) [inline Cubical/Data/Unit/Properties.agda:59]: Do you really need to parametrize over \ell here?

Comment (mortberg) [reply Cubical/Data/Unit/Properties.agda:59]: Same for the lemmas below

File: Cubical/Foundations/Equiv/HalfAdjoint.agda [hunk 8]
```diff
@@ -144,3 +149,15 @@ congIso {x = x} {y} e = goal
                    ; (j = i0) → Iso.leftInv e x (i ∨ k)
                    ; (j = i1) → Iso.leftInv e y (i ∨ k) })
           (Iso.leftInv e (p j) i)
+
+invCongFunct : {x : A} (e : Iso A B) (p : Iso.fun e x ≡ Iso.fun e x) (q : Iso.fun e x ≡ Iso.fun e x)
```
Comment (mortberg) [inline Cubical/Foundations/Equiv/HalfAdjoint.agda:153]: Yikes, this had a scary proof! Can't one do it by `elimIso` (https://github.com/agda/cubical/blob/master/Cubical/Foundations/Univalence.agda#L287) instead?

I guess one potential problem with that lemma is that it's using univalence... But maybe that's still simpler this proof? (which might be using univalence somewhere anyway...)

File: Cubical/Foundations/HLevels.agda [hunk 9]
```diff
@@ -179,30 +183,87 @@ isPropRetract f g h p x y i =
       ; (i = i1) → h y j})
     (g (p (f x) (f y) i))
 
+isSetRetract
```
Comment (mortberg) [inline Cubical/Foundations/HLevels.agda:186]: This type is really strangely indendented. Same for the other similar lemmas

File: Cubical/Foundations/HLevels.agda [hunk 10]
```diff
@@ -179,30 +183,87 @@ isPropRetract f g h p x y i =
...
+is2GroupoidRetract f g h grp x y p q P Q R S i j k l =
+  hcomp (λ r → λ { (i = i0) → h (R j k l) r
+                  ; (i = i1) → h (S j k l) r
+                  ; (j = i0) → h (P k l) r
+                  ; (j = i1) → h (Q k l) r
+                  ; (k = i0) → h (p l) r
+                  ; (k = i1) → h (q l) r
+                  ; (l = i0) → h x r
+                  ; (l = i1) → h y r})
+        (g (grp (f x) (f y) (cong f p) (cong f q)
```
Comment (mortberg) [inline Cubical/Foundations/HLevels.agda:226]: Hmm, wouldn't this be easier to read if you inline the uses of cong?

File: Cubical/Foundations/HLevels.agda [hunk 11]
```diff
@@ -220,15 +281,19 @@ isContrΣ {A = A} {B = B} (a , p) q =
 isContrΣ′ : (ca : isContr A) → isContr (B (fst ca)) → isContr (Σ A B)
 isContrΣ′ ca cb = isContrΣ ca (λ x → subst _ (snd ca x) cb)
 
+Σ≡Prop-sect
```
Comment (mortberg) [inline Cubical/Foundations/HLevels.agda:284]: I would call this `section-Σ≡Prop`

File: Cubical/Foundations/HLevels.agda [hunk 12]
```diff
@@ -220,15 +281,19 @@ isContrΣ {A = A} {B = B} (a , p) q =
...
+  : (pB : (x : A) → isProp (B x)) {u v : Σ A B}
+  → section (Σ≡Prop pB {u} {v}) (cong fst)
+Σ≡Prop-sect {A = A} pB {u} {v} p j i =
+  (p i .fst) , isProp→PathP (λ i → isOfHLevelPath 1 (pB (fst (p i)))
+                                       (Σ≡Prop pB {u} {v} (cong fst p) i .snd)
+                                       (p i .snd) )
+                                       refl refl i j
+
 Σ≡Prop-equiv
```
Comment (mortberg) [inline Cubical/Foundations/HLevels.agda:293]: I would call this `isEquiv-Σ≡Prop`

File: Cubical/Functions/Fibration.agda [hunk 13]
```diff
@@ -67,9 +67,22 @@ module _ {ℓb} (B : Type ℓb) (ℓ : Level) where
...
+
 fiber≡ : ∀ {ℓ ℓ'} {A : Type ℓ} {B : Type ℓ'} {f : A → B} {b : B} (h h' : fiber f b)
   → (h ≡ h') ≡ fiber (cong f) (h .snd ∙∙ refl ∙∙ sym (h' .snd))
-fiber≡ {f = f} h h' =
+fiber≡ {f = f} {b = b} h h' =
   ΣPath≡PathΣ ⁻¹ ∙
-  cong (Σ (h .fst ≡ h' .fst)) (funExt λ p → flipSquarePath ∙ PathP≡doubleCompPathʳ _ _ _ _)
+  fiberPath h h'
 
+-- fiberIso : ∀ {ℓ ℓ'} {A : Type ℓ} {B : Type ℓ'} {f : A → B} {b : B} (h h' : fiber f b)
```
Comment (mortberg) [inline Cubical/Functions/Fibration.agda:83]: Commented code

File: Cubical/HITs/Hopf.agda [hunk 14]
```diff
@@ -320,3 +322,20 @@ JoinS¹S¹≡TotalHopf = isoToPath (iso JoinS¹S¹→TotalHopf
 
 S³≡TotalHopf : S³ ≡ TotalHopf
 S³≡TotalHopf = S³≡joinS¹S¹ ∙ JoinS¹S¹≡TotalHopf
+
+open Iso renaming (inv to inv')
```
Comment (mortberg) [inline Cubical/HITs/Hopf.agda:326]: What is the other use on `inv` in scope? Maybe that should be renamed?

File: Cubical/HITs/Join/Base.agda [hunk 15]
```diff
@@ -76,5 +76,12 @@ joinS¹S¹→S³→joinS¹S¹ (push base (loop k) i) l = push base (loop k) (i 
...
+S³IsojoinS¹S¹ : Iso S³ (join S¹ S¹)
+Iso.fun S³IsojoinS¹S¹ = S³→joinS¹S¹
+Iso.inv S³IsojoinS¹S¹ = joinS¹S¹→S³
+Iso.rightInv S³IsojoinS¹S¹ = joinS¹S¹→S³→joinS¹S¹
+Iso.leftInv S³IsojoinS¹S¹ = S³→joinS¹S¹→S³
+
+
 S³≡joinS¹S¹ : S³ ≡ join S¹ S¹
-S³≡joinS¹S¹ = isoToPath (iso S³→joinS¹S¹ joinS¹S¹→S³ joinS¹S¹→S³→joinS¹S¹ S³→joinS¹S¹→S³)
+S³≡joinS¹S¹ = isoToPath (S³IsojoinS¹S¹)
```
Comment (mortberg) [inline Cubical/HITs/Join/Base.agda:87]: Redundant parantheses

File: Cubical/HITs/S2/Base.agda [hunk 16]
```diff
@@ -6,3 +6,8 @@ open import Cubical.Foundations.Prelude
 data S² : Type₀ where
   base : S²
   surf : PathP (λ i → base ≡ base) refl refl
+
+open import Cubical.Foundations.HLevels
```
Comment (mortberg) [inline Cubical/HITs/S2/Base.agda:10]: Move import to the top

File: Cubical/HITs/S2/Base.agda [hunk 17]
```diff
@@ -6,3 +6,8 @@ open import Cubical.Foundations.Prelude
...
+S²ToSetRec : ∀ {ℓ} {A : S² → Type ℓ} → ((x : S²) → isSet (A x)) → (A base) → (x : S²) → A x
```
Comment (mortberg) [inline Cubical/HITs/S2/Base.agda:11]: Redundant parentheses in type and not necessary to pattern-match on {A = A}

File: Cubical/HITs/Sn/Base.agda [hunk 18]
```diff
@@ -7,14 +7,20 @@ open import Cubical.Data.Nat
...
+open import Cubical.Data.Bool
+open import Cubical.HITs.S1
 
 S : ℕ₋₁ → Type₀
 S neg1 = ⊥
 S (ℕ→ℕ₋₁ n) = Susp (S (-1+ n))
 
 S₊ : ℕ → Type₀
-S₊ n = S (ℕ→ℕ₋₁ n)
+S₊ zero = Bool
```
Comment (mortberg) [inline Cubical/HITs/Sn/Base.agda:18]: I think you can write 0 and 1 instead of `zero` and `suc zero`

File: Cubical/HITs/Truncation/FromNegOne/Base.agda [hunk 19]
```diff
@@ -13,8 +13,17 @@ open import Cubical.Data.NatMinusOne renaming (suc₋₁ to suc)
...
 open import Cubical.Foundations.HLevels
 open import Cubical.HITs.Sn
+open import Cubical.Data.Nat.Base renaming (suc to sucℕ)
+open import Cubical.Data.Unit.Base
 
-data  ∥_∥_ {ℓ} (A : Type ℓ) (n : ℕ₋₁) : Type ℓ where
-  ∣_∣ : A  → ∥ A ∥ n
-  hub : (f : S (suc n) → ∥ A ∥ n) → ∥ A ∥ n
-  spoke : (f : S (suc n) → ∥ A ∥ n) (x : S (suc n)) → hub f ≡ f x
+data  ∥_∥⁻¹_ {ℓ} (A : Type ℓ) (n : ℕ₋₁) : Type ℓ where
```
Comment (mortberg) [inline Cubical/HITs/Truncation/FromNegOne/Base.agda:19]: I would not introduce the ^-1 here. Maybe better to just call it `HubAndSpoke` or something?

File: Cubical/HITs/Truncation/FromNegOne/Properties.agda [hunk 20]
```diff
@@ -90,93 +99,347 @@ isOfHLevel→isSphereFilled {A = A} (ℕ→ℕ₋₁ n) h = helper λ x y → is
...
-  Iso.fun f        = ind (λ _ → hA) λ a → a
-  Iso.inv f        = ∣_∣
-  Iso.rightInv f _ = refl
-  Iso.leftInv f    = ind (λ _ → isOfHLevelPath (1 + 1+ n) (isOfHLevel∥∥ n) _ _) (λ _ → refl)
+minΣ : (n m : ℕ) → Σ[ x ∈ ℕ ] x + min n m ≡ n
+minΣ zero m = 0 , refl
+minΣ (suc n) zero = (suc n) , cong suc (+-zero n)
+minΣ (suc n) (suc m) = (minΣ n m .fst) , +-suc _ _ ∙ cong suc (minΣ n m .snd)
+
+minComm : (n m : ℕ) → min n m ≡ min m n
```
Comment (mortberg) [inline Cubical/HITs/Truncation/FromNegOne/Properties.agda:162]: This should be moved to theory about naturals file

File: Cubical/HITs/Truncation/FromNegOne/Properties.agda [hunk 21]
```diff
@@ -90,93 +99,347 @@ isOfHLevel→isSphereFilled {A = A} (ℕ→ℕ₋₁ n) h = helper λ x y → is
...
 
-truncIdempotent≃ : (n : ℕ₋₁) → isOfHLevel (1 + 1+ n) A → ∥ A ∥ n ≃ A
-truncIdempotent≃ {A = A} n hA = isoToEquiv f
-  where
-  f : Iso (∥ A ∥ n) A
-  Iso.fun f        = ind (λ _ → hA) λ a → a
-  Iso.inv f        = ∣_∣
-  Iso.rightInv f _ = refl
-  Iso.leftInv f    = ind (λ _ → isOfHLevelPath (1 + 1+ n) (isOfHLevel∥∥ n) _ _) (λ _ → refl)
+minΣ : (n m : ℕ) → Σ[ x ∈ ℕ ] x + min n m ≡ n
```
Comment (mortberg) [inline Cubical/HITs/Truncation/FromNegOne/Properties.agda:157]: This lemma is a bit strange... It's really just computing `n - min n m`

File: Cubical/HITs/Truncation/FromNegOne/Properties.agda [hunk 22]
```diff
@@ -90,93 +99,347 @@ isOfHLevel→isSphereFilled {A = A} (ℕ→ℕ₋₁ n) h = helper λ x y → is
...
+minComm zero zero = refl
+minComm zero (suc m) = refl
+minComm (suc n) zero = refl
+minComm (suc n) (suc m) = cong suc (minComm n m)
+
+isOfHLevelMin→isOfHLevel : {n m : ℕ} → isOfHLevel (min n m) A → isOfHLevel n A × isOfHLevel m A
+isOfHLevelMin→isOfHLevel {n = zero} {m = m} h = h , isContr→isOfHLevel m h
+isOfHLevelMin→isOfHLevel {n = suc n} {m = zero} h = (isContr→isOfHLevel (suc n) h) , h
+isOfHLevelMin→isOfHLevel {A = A} {n = suc n} {m = suc m} h = (subst (λ x → isOfHLevel x A) (minΣ (suc n) (suc m) .snd) (isOfHLevelPlus _ h))
+                                                           , subst (λ x → isOfHLevel x A) (cong (λ y → minΣ m n .fst + suc y) (minComm n m) ∙ minΣ (suc m) (suc n) .snd) (isOfHLevelPlus _ h)
```
Comment (mortberg) [inline Cubical/HITs/Truncation/FromNegOne/Properties.agda:172]: Long line

File: Cubical/HITs/Truncation/FromNegOne/Properties.agda [hunk 23]
```diff
@@ -90,93 +99,347 @@ isOfHLevel→isSphereFilled {A = A} (ℕ→ℕ₋₁ n) h = helper λ x y → is
...
+
+open import Cubical.Data.Nat hiding (elim )
```
Comment (mortberg) [inline Cubical/HITs/Truncation/FromNegOne/Properties.agda:174]: Move import up

File: Cubical/HITs/Truncation/FromNegOne/Properties.agda [hunk 24]
```diff
@@ -90,93 +99,347 @@ isOfHLevel→isSphereFilled {A = A} (ℕ→ℕ₋₁ n) h = helper λ x y → is
...
+ΣTruncElim : ∀ {ℓ ℓ' ℓ''} {A : Type ℓ} {n m : ℕ}
+              {B : (x : ∥ A ∥ (suc n)) → Type ℓ'}
+              {C : (Σ[ a ∈ (∥ A ∥ (suc n)) ] (∥ B a ∥ (suc m))) → Type ℓ''}
+              → ((x : (Σ[ a ∈ (∥ A ∥ (suc n)) ] (∥ B a ∥ (suc m)))) → isOfHLevel (min (suc n) (suc m)) (C x))
+              → ((a : A) (b : B (∣ a ∣)) → C (∣ a ∣ , ∣ b ∣))
+              → (x : (Σ[ a ∈ (∥ A ∥ (suc n)) ] (∥ B a ∥ (suc m)))) → (C x)
+ΣTruncElim {n = n} {m = m} {B = B} {C = C} hB g (a , b) = (elim {B = λ a → (b :  (∥ B a ∥ (suc m))) → C (a , b)} (λ x → isOfHLevelΠ (suc n) λ b → isOfHLevelMin→isOfHLevel (hB (x , b)) .fst ) (λ a → elim (λ _ → isOfHLevelMin→isOfHLevel (hB (∣ a ∣ , _)) .snd) λ b → g a b) a) b
```
Comment (mortberg) [inline Cubical/HITs/Truncation/FromNegOne/Properties.agda:181]: Long line

File: Cubical/HITs/Truncation/FromNegOne/Properties.agda [hunk 25]
```diff
@@ -90,93 +99,347 @@ isOfHLevel→isSphereFilled {A = A} (ℕ→ℕ₋₁ n) h = helper λ x y → is
...
+
+mapId : {n : HLevel} → ∀ t → map {n = n} (idfun A) t ≡ t
+mapId {n = 0} tt* = refl
+mapId {n = (suc n)} =
+  elim (λ _ → isOfHLevelPath (suc n) (isOfHLevelTrunc (suc n)) _ _) (λ _ → refl)
+
+-- equivalences to prop/set/groupoid truncations
+
+propTruncTrunc1Iso : Iso ∥ A ∥₁ (∥ A ∥ 1)
+Iso.fun propTruncTrunc1Iso = PropTrunc.elim (λ _ → isOfHLevelTrunc 1) ∣_∣
```
Comment (mortberg) [inline Cubical/HITs/Truncation/FromNegOne/Properties.agda:242]: Do you really need elim in the fun/inv cases and not just rec? Same for the other similar lemmas

File: Cubical/HITs/Truncation/FromNegOne/Properties.agda [hunk 26]
```diff
@@ -90,93 +99,347 @@ isOfHLevel→isSphereFilled {A = A} (ℕ→ℕ₋₁ n) h = helper λ x y → is
...
+groupoidTrunc≃Trunc3 : ∥ A ∥₃ ≃ ∥ A ∥ 3
+groupoidTrunc≃Trunc3 = isoToEquiv groupoidTrunc≃Trunc3Iso
 
-2GroupoidTrunc≃Trunc2 : ∥ A ∥₂ ≃ ∥ A ∥ 2
-2GroupoidTrunc≃Trunc2 =
+groupoidTrunc≡Trunc3 : ∥ A ∥₃ ≡ ∥ A ∥ 3
+groupoidTrunc≡Trunc3 = ua groupoidTrunc≃Trunc3
+
+
+2GroupoidTrunc≃Trunc4Iso : Iso ∥ A ∥₄ (∥ A ∥ 4)
```
Comment (mortberg) [inline Cubical/HITs/Truncation/FromNegOne/Properties.agda:279]: Naming is weird

File: Cubical/HITs/Truncation/FromNegOne/Properties.agda [hunk 27]
```diff
@@ -90,93 +99,347 @@ isOfHLevel→isSphereFilled {A = A} (ℕ→ℕ₋₁ n) h = helper λ x y → is
...
+Iso.fun 2GroupoidTrunc≃Trunc4Iso = 2GpdTrunc.elim (λ _ → isOfHLevelTrunc 4) ∣_∣
+Iso.inv 2GroupoidTrunc≃Trunc4Iso = elim (λ _ → squash₄) ∣_∣₄
+Iso.rightInv 2GroupoidTrunc≃Trunc4Iso = elim (λ _ → isOfHLevelPath 4 (isOfHLevelTrunc 4) _ _) (λ _ → refl)
+Iso.leftInv 2GroupoidTrunc≃Trunc4Iso = 2GpdTrunc.elim (λ _ → isOfHLevelPath 4 squash₄ _ _) (λ _ → refl)
+
+2GroupoidTrunc≃Trunc4 : ∥ A ∥₄ ≃ ∥ A ∥ 4
```
Comment (mortberg) [inline Cubical/HITs/Truncation/FromNegOne/Properties.agda:285]: Why not use the lemma above?

File: Cubical/Homotopy/Connected.agda [hunk 28]
```diff
@@ -132,63 +143,61 @@ isOfHLevelPrecomposeConnected : ∀ {ℓ ℓ' ℓ''} (k : HLevel) (n : HLevel)
...
+                                tt)
 
 isConnectedPath : ∀ {ℓ} (n : HLevel) {A : Type ℓ}
   → isConnected (suc n) A
   → (a₀ a₁ : A) → isConnected n (a₀ ≡ a₁)
-isConnectedPath n connA a₀ a₁ =
-  subst isContr (PathIdTrunc _)
+isConnectedPath zero connA a₀ a₁ = isContrUnit*
+isConnectedPath (suc n) connA a₀ a₁ =
+  isContrRetract
```
Comment (mortberg) [inline Cubical/Homotopy/Connected.agda:183]: It seems like this proof pattern is appearing a lot. You apply "isContrRetract" (or similar lemmas) so some iso which you need to decompose. Why not prove this once and for all as a lemma "isContrRetractFromIso" or something?

File: Cubical/Homotopy/Freudenthal.agda [hunk 29]
```diff
@@ -87,7 +94,7 @@ module _ {ℓ} (n : HLevel) {A : Pointed ℓ} (connA : isConnected (suc (suc n))
   encodeMerid : (a : typ A) → encode south (merid a) ≡ ∣ a , refl ∣
   encodeMerid a =
     cong (transport (λ i → gluePath i))
-      (funExt⁻ (WC.left refl a) _ ∙ cong ∣_∣ (cong (a ,_) (lem _ _)))
+      (funExt⁻ (WC.left refl a) _ ∙ λ i → ∣ a , (lem (rCancel' (merid a)) (rCancel' (merid (pt A)))) i ∣)
```
Comment (mortberg) [inline Cubical/Homotopy/Freudenthal.agda:97]: redundant parentheses around lem

File: Cubical/Homotopy/Freudenthal.agda [hunk 30]
```diff
@@ -111,6 +118,11 @@ module _ {ℓ} (n : HLevel) {A : Pointed ℓ} (connA : isConnected (suc (suc n))
   isConnectedσ =
     transport (λ i → isConnectedFun 2n+2 (interpolate (pt A) (~ i))) isConnectedMerid
 
+open import Cubical.Foundations.Pointed
+open import Cubical.Data.Bool
+
+isConn→isConnSusp : ∀ {ℓ} {A : Pointed ℓ} → isConnected 2 (typ A) → isConnected 2 (Susp (typ A))
+isConn→isConnSusp {A = A} iscon = ∣ north ∣ , (trElim (λ _ → isOfHLevelSuc 1 (isOfHLevelTrunc 2 _ _)) (suspToPropRec (pt A) (λ _ → isOfHLevelTrunc 2 _ _) refl))
```
Comment (mortberg) [inline Cubical/Homotopy/Freudenthal.agda:125]: longline

File: Cubical/Homotopy/Freudenthal.agda [hunk 31]
```diff
@@ -111,6 +118,11 @@ module _ {ℓ} (n : HLevel) {A : Pointed ℓ} (connA : isConnected (suc (suc n))
   isConnectedσ =
     transport (λ i → isConnectedFun 2n+2 (interpolate (pt A) (~ i))) isConnectedMerid
 
+open import Cubical.Foundations.Pointed
```
Comment (mortberg) [inline Cubical/Homotopy/Freudenthal.agda:121]: move imports up

**Review by mortberg — CHANGES_REQUESTED** [review]
Very nice that things are faster! I commented on everything except in the ZCohomology files as suggested.

Looking at this code makes me think that FromNegOne should be the default Truncation while the current one should be in a separate folder?

File: Cubical/Data/Unit/Base.agda (hunk 5 above)
Comment (ecavallo) [reply Cubical/Data/Unit/Base.agda:10]: Might be better to define it using the existing `Lift` and `Unit`:
```
Unit* : {ℓ : Level} → Type ℓ
Unit* = Lift Unit

pattern tt* = lift tt
```
I suspect that this would be inconvenient to use as the default `Unit`. For one thing, you're often going to need to specify the level explicitly, `Unit* {ℓ}`, and you'll need more level quantification everywhere.

Comment (mortberg) [reply Cubical/Data/Unit/Base.agda:10]: Ah ok, I agree with @ecavallo 's suggestion then!

File: Cubical/Algebra/Group/Algebra.agda (hunk 1 above)
Comment (aljungstrom) [reply Cubical/Algebra/Group/Algebra.agda:250]: Haha wups, didn't mean to keep that name. I think it's a pretty useful lemma, so it should probably be there. But I'll rename it.

File: Cubical/Data/Unit/Base.agda (hunk 5 above)
Comment (aljungstrom) [reply Cubical/Data/Unit/Base.agda:10]: Right, the lifted one is probably better to use with truncations since it inherits definitional equality from Unit. The reason I defined it like this is that I didn't want the definitional equality (I "lock" theorems in ZCohomology by giving them with respect to an element in Unit* and that doesn't work if you have definitional equality). I think I'll add a third Unit type called "lockUnit" or something then.

File: Cubical/Foundations/Equiv/HalfAdjoint.agda (hunk 8 above)
Comment (aljungstrom) [reply Cubical/Foundations/Equiv/HalfAdjoint.agda:153]: Hmm, I'm a bit scared of this proof. But I realised it was super easy to prove with J. This doesn't even rely on the fact that we have an Iso, so that should be much better for computations.

File: Cubical/Data/Unit/Base.agda (hunk 5 above)
Comment (Saizan) [reply Cubical/Data/Unit/Base.agda:10]: Others have used the name `Block` for a unit type used like this. Even giving it a phantom string parameter, `Block : String -> Type` so the `String` can document what you're blocking.

File: Cubical/HITs/Hopf.agda (hunk 14 above)
Comment (aljungstrom) [reply Cubical/HITs/Hopf.agda:326]: That's the function from S1 to S1 sending loop to sym loop. I renamed it to invLooper

File: Cubical/Foundations/Equiv/HalfAdjoint.agda (hunk 8 above)
Comment (mortberg) [reply Cubical/Foundations/Equiv/HalfAdjoint.agda:153]: I'm confused, what are you using J on to prove it? 

As far as I can tell the proof is still scary btw...

**Review by mortberg — APPROVED** [review]

**Comment by mortberg** [comment]
I would be happy to merge once the confusion about `invCongFunct` has been resolved

**Comment by mortberg** [comment]
After merging this the beginning of the output of `make timings` is:

```
Cubical.ZCohomology.MayerVietorisUnreduced       14,023ms 
Cubical.ZCohomology.Properties                   12,158ms 
Cubical.ZCohomology.Groups.Sn                     8,331ms 
Cubical.Data.DescendingList.Examples              7,971ms 
Cubical.ZCohomology.Groups.Torus                  6,908ms 
Cubical.Algebra.Algebra.Base                      6,465ms 
Cubical.ZCohomology.Groups.Prelims                5,337ms 
Cubical.Foundations.GroupoidLaws                  5,008ms 
Cubical.Data.Fin.Properties                       4,479ms 
Cubical.HITs.Hopf                                 4,454ms 
Cubical.Foundations.HLevels                       3,973ms 
Cubical.Foundations.Id                            3,888ms 
Cubical.HITs.Truncation.FromNegOne.Properties     3,477ms 
Cubical.Algebra.FreeCommAlgebra                   3,467ms 
Cubical.Algebra.CommAlgebra.Base                  3,349ms 
Cubical.Homotopy.Connected                        3,243ms 
Cubical.HITs.S1.Base                              3,131ms
```

After running `agda --ignore-interfaces -v profile.definitions:10 Cubical/README.agda` I get the following output:

```
Cubical.Data.DescendingList.Examples.LongerExample                                  9,430ms 
Cubical.ZCohomology.Properties.commₖ                                                3,369ms 
Cubical.ZCohomology.MayerVietorisUnreduced.MV.dHomHelperPath                        2,654ms 
Cubical.Foundations.Id._.f12                                                        2,360ms 
Cubical.HITs.KleinBottle.Properties._                                               2,071ms 
Cubical.Foundations.Pointed.Homotopy._.∙∼≃∙∼P                                       1,569ms 
Cubical.ZCohomology.Groups.Torus._.theIso                                           1,420ms 
Cubical.Homotopy.Freudenthal._.encodeMerid                                          1,328ms 
Cubical.ZCohomology.Groups.Torus.H¹-T²≅ℤ×ℤ                                          1,320ms 
Cubical.ZCohomology.Properties.rUnitlUnit0                                          1,293ms 
Cubical.HITs.Cost.Base._                                                            1,070ms 
Cubical.Homotopy.Freudenthal._.isEquivFwd                                             923ms 
Cubical.ZCohomology.Groups.Prelims._._._.helperFun2                                   868ms 
```

I'll make a PR commenting out the first of these and see if I can do anything about the other slow ones
